US07947730B2
b) Oxo-thiophen-2-yl-acetic acid 1-methyl-piperidin-4-yl ester
To a solution of oxo-thiophen-2-yl-acetyl chloride (29 mmol) at 0 to 5° C. in chloroform (60 ml) is added a solution of 1-methyl-piperidine-4-ol (5.87 g, 29 mmol) in chloroform (60 ml), dropwise with stirring. The resulting mixture is stirred for 2 hours at room temperature. Washing with 10% potassium carbonate solution, water (×2), drying over magnesium sulphate, filtration and evaporation gives the title compound.

reactant | oxo-thiophen-2-yl-acetyl chloride | 29 mmol | O=C(C(=O)Cl)C=1SC=CC1 | C6H3ClO2S
reactant | 1-methyl-piperidine-4-ol | 29 mmol, 5.87 g | CN1CCC(CC1)O | C6H13NO
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | Oxo-thiophen-2-yl-acetic acid 1-methyl-piperidin-4-yl ester | CN1CCC(CC1)OC(C(C=1SC=CC1)=O)=O | C12H15NO3S
